US07345180B2
Ethyl 2-formyl-3-oxopropionate (775 mg) was added to a solution of the thus obtained 5-methoxymethyl-2H-pyrazol-3-ylamine (684 mg) in ethanol (50 ml), and stirred overnight. The reaction solution was concentrated under reduced pressure, and a saturated sodium bicarbonate solution was added to the residue which were then extracted with ethyl acetate. The organic phase was washed with a saturated saline solution and dried over sodium sulfate anhydrous. The resulting product was concentrated under reduced pressure, and the residue was purified by column chromatography (eluting solvent; n-hexane:ethyl acetate 4:1) to give ethyl 2-methoxymethylpyrazolo[1,5-a]pyrimidine-6-carboxylate (878 mg, Y.:69%). 1 M Boron tribromide solution in dichloromethane (0.51 ml) was added dropwise at −70° C. to a solution of the thus obtained ethyl 2-methoxymethylpyrazolo[1,5-a]pyrimidine-6-carboxylate (20 mg) in dichloromethane (2 ml). The temperature of the mixture under stirring was increased from −70° C. to −50° C. over 4.5 hours and then increased from −50° C. to room temperature over 2 hours. The reaction mixture was cooled to 0° C., water was added to the reaction mixture which was then extracted with ethyl acetate, and the extract was dried over sodium sulfate anhydrous. The resulting product was concentrated under reduced pressure to give ethyl 2-hydroxymethylpyrazolo[1,5-a]pyrimidine-6-carboxylate (19 mg, Y.:quant.).

reactant | Boron tribromide | 1 M | B(Br)(Br)Br | BBr3
reactant | ethyl 2-methoxymethylpyrazolo[1,5-a]pyrimidine-6-carboxylate | 20 mg | COCC1=NN2C(N=CC(=C2)C(=O)OCC)=C1 | C11H13N3O3
reactant | water | O | H2O
solvent | dichloromethane | 0.51 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | ethyl 2-hydroxymethylpyrazolo[1,5-a]pyrimidine-6-carboxylate | 19 mg | OCC1=NN2C(N=CC(=C2)C(=O)OCC)=C1 | C10H11N3O3
